US08003785B2
A mixture of 0.078 g (0.30 mmole) of (rac)-(3S,4S)-3-amino-4-hydroxy-piperidine-1-carboxylic acid benzyl ester, 0.113 g (0.25 mmole) of 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid (I-22), 0.1138 g (0.30 mmole) 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate, 0.0776 g (0.60 mmole) of diisopropylethylamine and 2 mL of dimethylformamide was stirred at room temperature for 1 hour. The mixture was poured into 50 mL of water and extracted three times with 25 mL of ethyl acetate. The combined organic extracts were washed three times with 25 mL of water, once with 25 mL of saturated aqueous ammonium chloride solution, once with 25 mL of saturated aqueous sodium bicarbonate solution, once with 25 mL of brine and dried over anhydrous magnesium sulfate. The mixture was filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (96:4) to give 0.088 g of rac-(3S,4S)-3-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-4-methoxy-piperidine-1-carboxylic acid benzyl ester (I-58) as a foam. Tritruration of the foam with diethyl ether gave a white solid.

reactant | (rac)-(3S,4S)-3-amino-4-hydroxy-piperidine-1-carboxylic acid benzyl ester | 0.30 mmole, 0.078 g | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](CC1)O)N | C13H18N2O3
reactant | 4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoic acid | 0.25 mmole, 0.113 g | C1(CCCC1)N1C2=C(N(C(C(C1)(F)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C21H23F2N5O4
reactant | 1-[bis(dimethylamino)methylene]-1H-benzotriazolium-3-oxide hexafluorophosphate | 0.30 mmole, 0.1138 g | F[P-](F)(F)(F)(F)F.CN(C)C(=[N+]1N=[N+](C2=C1C=CC=C2)[O-])N(C)C
reactant | diisopropylethylamine | 0.60 mmole, 0.0776 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | water | 50 mL | O | H2O
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | rac-(3S,4S)-3-[4-(9-cyclopentyl-7,7-difluoro-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-3-methoxy-benzoylamino]-4-methoxy-piperidine-1-carboxylic acid benzyl ester | 0.088 g | C(C1=CC=CC=C1)OC(=O)N1CC(C(CC1)OC)NC(C1=CC(=C(C=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(F)F)C2CCCC2)N1)OC)=O | C35H41F2N7O6
